US06559179B1
d) 4-(2,6-Dichlorobenzyloxy)benzylmalonic acid monoethyl ester
A solution of diethyl[4-(2,6-dichlorobenzyloxy)benzyl]malonate (3.02 g, 7.1 mmol) in ethanol (70 mL) with potassium hydroxide (0.48 g, 7.4 mmol) was stirred at room temperature for 18 h. The reaction mixture was diluted with water (100 mL) then concentrated to half the original volume in vacuo. The resulting aqueous solution was washed with ether then acidified with 3N HCl and the product extracted into ethyl acetate. The organic extract was washed with water then brine and dried (Na2SO4). Removal of solvent in vacuo afforded the title compound (2.86 g, 100%)

reactant | diethyl[4-(2,6-dichlorobenzyloxy)benzyl]malonate | 7.1 mmol, 3.02 g | C(C)OC(C(C(=O)OCC)CC1=CC=C(C=C1)OCC1=C(C=CC=C1Cl)Cl)=O | C21H22Cl2O5
reactant | potassium hydroxide | 7.4 mmol, 0.48 g | [OH-].[K+]
solvent | ethanol | 70 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
product | 4-(2,6-Dichlorobenzyloxy)benzylmalonic acid monoethyl ester | 2.86 g, 100% | C(C)OC(C(C(=O)O)CC1=CC=C(C=C1)OCC1=C(C=CC=C1Cl)Cl)=O | C19H18Cl2O5
